US07214802B2
To a 0° C. solution of 1.30 g (4.35 mmol) of 2-(4-methoxy-3,5-dinitro-phenyl)-2-methyl-propionic acid methyl ester in 30 mL of THF was added dropwise 17 mL (17 mmol) of 1.0 M DIBAL in CH2Cl2. After stirring an additional 4 h, 2 mL of MeOH and then saturated Na2SO4 (2 mL) were slowly added. The resulting suspension was rapidly stirred for 20 min then 40 mL of EtOAc was added followed by MgSO4. The resulting mixture was then stirred at rt for an additional 30 min. The mixture was filtered through celite, and the filter cake was washed with EtOAc. The filtrate was concentrated to provide 580 mg of 2-(4-methoxy-3,5-dinitro-phenyl)-2-methyl-propan-1-ol.

reactant | 2-(4-methoxy-3,5-dinitro-phenyl)-2-methyl-propionic acid methyl ester | 4.35 mmol, 1.30 g | COC(C(C)(C)C1=CC(=C(C(=C1)[N+](=O)[O-])OC)[N+](=O)[O-])=O | C12H14N2O7
reactant | DIBAL | 17 mmol, 1.0 M, 17 mL | CC(C)C[AlH]CC(C)C
reactant | Na2SO4 | 2 mL | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 2 mL | CO | CH4O
product | 2-(4-methoxy-3,5-dinitro-phenyl)-2-methyl-propan-1-ol | 580 mg | COC1=C(C=C(C=C1[N+](=O)[O-])C(CO)(C)C)[N+](=O)[O-] | C11H14N2O6
